US09259470B2
1-((4-chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one
1-((4-Chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (343 mg, 0.724 mmol) as a solution in DMA (5 mL) was added to a microwave tube equipped with a stir bar. Tetrahydro-2H-pyran-4-amine (366 mg, 3.62 mmol) was then added neat by syringe. The solution was heated in a microwave apparatus with stirring to 120° C. for 1 hour. After 1 hour, the solution was diluted to 30 mL with ethyl acetate and washed with a water/brine mixture (4×30 mL). The organics were isolated, dried (MgSO4), filtered and concentrated. TLC in 5/95 methanol/ethyl acetate showed complete loss of starting material and a new spot of nearly the same rf. The crude product was loaded onto a Biotage 40S column with 2.5/97.5 methanol/ethyl acetate and eluted. Product containing fractions were pooled and concentrated to a foam, 1-((4-chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (225 mg, 63%). 1H NMR (400 MHz, CDCl3) δ 8.39 (d, 1H), 7.37 (m, 4H), 7.23 (s, 1H), 7.18 (br s, 1H), 7.00 (m, 2H), 6.90 (d, 1H), 6.79 (dd, 1H), 5.15 (br d, 1H), 4.11 (m, 1H), 4.00 (m, 2H), 3.91 (s, 3H), 3.56 (m, 2H), 2.06 (m, 2H), 1.57 (m, 2H); m/z (APCI-pos) M+1=496.1.

reactant | 1-((4-Chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.724 mmol, 343 mg | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O)C=1C=NN(C1)C)F | C21H17ClFN5O3S
reactant | Tetrahydro-2H-pyran-4-amine | 3.62 mmol, 366 mg | O1CCC(CC1)N | C5H11NO
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((4-chloro-3-fluorophenyl)(1-methyl-1H-pyrazol-4-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C=1C=NN(C1)C)F | C25H24ClFN6O2
